US07981903B2
A slurry of N-[2-methyl-4-(methyloxy)-5-nitrophenyl]acetamide (1 g, 4.46 mmol) in methanol (20 ml) and 4M HCl in dioxane (8.92 ml, 35.7 mmol) was heated at 60° C. for 18 h. The reaction mixture was cooled in an ice bath and solids were filtered and washed with cold methanol to afford 2-methyl-4-(methyloxy)-5-nitroaniline HCl salt (0.516 g, 2.36 mmol) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.38 (s, 3 H) 3.91 (s, 3 H) 7.31 (s, 1 H) 7.87 (s, 1 H) 9.39 (br. s., 2 H)

reactant | N-[2-methyl-4-(methyloxy)-5-nitrophenyl]acetamide | 4.46 mmol, 1 g | CC1=C(C=C(C(=C1)OC)[N+](=O)[O-])NC(C)=O | C10H12N2O4
reactant | dioxane | 35.7 mmol, 8.92 ml | O1CCOCC1 | C4H8O2
reactant | HCl | 4M | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2-methyl-4-(methyloxy)-5-nitroaniline HCl salt | 2.36 mmol, 0.516 g | Cl.CC1=C(N)C=C(C(=C1)OC)[N+](=O)[O-] | InChI=1S/C8H10N2O3.ClH/c1-5-3-8(13-2)7(10(11)12)4-6(5)9;/h3-4H,9H2,1-2H3;1H
